US06469020B2
4-Iodomethyl-tetrahydro-pyran-4-carboxylic Acid Methyl Ester
Lithium diisopropylamide (10.9 ml of 2.0M solution in heptane/tetrahydrofuran/ethylbenzene) was added to a stirred solution of tetrahydro-pyran-4-carboxylic acid methyl ester (3.00 g) in tetrahydrofuran (50 ml) at 0° C. under an atmosphere of nitrogen. The mixture was stirred for 30 minutes before dropwise addition of diiodomethane (2.51 ml). Stirring was continued for a further hour during which it warmed to room temperature. The reaction was poured into water (50 ml) and then extracted with diethyl ether (3×40 ml). The combined organics were washed with water (2×20 ml), 2M hydrochloric acid (20 ml), water (20 ml) and brine (20 ml). After drying (MgSO4), filtering and evaporating under reduced pressure a yellow oil was obtained which was purified by column chromatography eluting with 3:1 hexane/diethyl ether to give the title compound as a colourless oil (3.11 g, 53%).

reactant | Lithium diisopropylamide | 2.0M, 10.9 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | tetrahydro-pyran-4-carboxylic acid methyl ester | 3.00 g | COC(=O)C1CCOCC1 | C7H12O3
reactant | diiodomethane | 2.51 ml | ICI | CH2I2
reactant | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-Iodomethyl-tetrahydro-pyran-4-carboxylic Acid Methyl Ester | 3.11 g, 53% | COC(=O)C1(CCOCC1)CI | C8H13IO3
